US08357693B2
A mixture of 4-chloro-7-methoxy-2-(3-nitrophenyl)quinazolin-6-yl acetate (1.60 g, 4.23 mmol) and tert-butyl 5-amino-1H-indazole-1-carboxylate (1.0 g, 4.28 mmol) were refluxed in anhydrous iso-propanol (60 mL) for 5 h. The mixture was allowed to cool to RT, upon which the solid was collected via filtration and was washed with Et2O to give tert-butyl 5-(6-acetoxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (2.2 g, 4.23 mmol, 100%). HPLC retention time=7.75 mins.

reactant | 4-chloro-7-methoxy-2-(3-nitrophenyl)quinazolin-6-yl acetate | 4.23 mmol, 1.60 g | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])Cl | C17H12ClN3O5
reactant | tert-butyl 5-amino-1H-indazole-1-carboxylate | 4.28 mmol, 1.0 g | NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H15N3O2
solvent | iso-propanol | 60 mL | C(C)(C)O | C3H8O
product | tert-butyl 5-(6-acetoxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C29H26N6O7
